US07943776B2
N-cyclopropyl-3-{[4-({5-[(dimethylamino)methyl]pyridin-2-yl}methoxy)benzoyl]amino}-4-methylbenzamide
To N-cyclopropyl-3-[(4-{[5-(hydroxymethyl)pyridin-2-yl]methoxy}benzoyl)amino]-4-methylbenzamide (100 mg, 0.232 mmol) in DCM (10 mL) was added Dess-Martin periodinane (197 mg, 0.464 mmol) and the reaction was stirred at room temperature for 3 h. The reaction was diluted with DCM (40 mL), washed with 2N NaOH (3×15 mL) and then a saturated brine solution (20 mL). The DCM solution of the aldehyde was dried with magnesium sulphate and then concentrated under reduced pressure to approximately 10 mL. To this solution was added dimethylamine (2M in THF, 0.13 mL, 0.260 mmol), acetic acid (2 drops) and titanium iso-propoxide (132 mg, 0.464 mmol). The mixture was stirred at room temperature for 1 h and then sodium triacetoxyborohydride (123 mg, 0.580 mmol) was added. The reaction was stirred for 18 h at room temperature. Water (4 drops) was added and the reaction was evaporated to dryness. The residue was purified by basic preparative HPLC to give the title compound as a white solid (30 mg, 28%); NMR Spectrum: (DMSOd6) 0.62 (m, 2H), 0.75 (m, 2H), 2.21 (s, 6H), 2.31 (s, 3H), 2.90 (m, 1H), 3.48 (s, 2H), 5.83 (s, 2H), 7.22 (d, 2H), 7.38 (d, 1H), 7.57 (d, 1H), 7.68 (dd, 1H), 7.81 (m, 1H), 7.85 (d, 1H), 8.04 (d, 2H), 8.42 (d, 1H), 8.57 (s, 1H), 9.88 (s, 1H); Mass Spectrum: M+H+ 459.

reactant | N-cyclopropyl-3-[(4-{[5-(hydroxymethyl)pyridin-2-yl]methoxy}benzoyl)amino]-4-methylbenzamide | 0.232 mmol, 100 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=C(C=C1)CO)=O)=O | C25H25N3O4
reactant | Dess-Martin periodinane | 0.464 mmol, 197 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dimethylamine | 0.260 mmol, 2M, 0.13 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 0.580 mmol, 123 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
catalyst | Water | 4 drops | O | H2O
product | N-cyclopropyl-3-{[4-({5-[(dimethylamino)methyl]pyridin-2-yl}methoxy)benzoyl]amino}-4-methylbenzamide | 30 mg, 28% | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=C(C=C1)CN(C)C)=O)=O | C27H30N4O3
